US03991071
A solution of 25.2 g. N-4-chlorobenzyl-N-propylamine in 150 ml. ethyl acetate was added to 150 ml. ethyl acetate under reflux whilst phosgene was passed through. The passage of phosgene was continued for 21/2 hours, after which the ethyl acetate was evaporated to give an oily product. Distillation gave N-4-chlorobenzyl-N-propylcarbamoyl chloride, an oil b.p. 162°-164° C./4.0 mm. Hg.

reactant | N-4-chlorobenzyl-N-propylamine | ClC1=CC=C(CNCCC)C=C1 | C10H14ClN
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-4-chlorobenzyl-N-propylcarbamoyl chloride | ClC1=CC=C(CN(C(=O)Cl)CCC)C=C1 | C11H13Cl2NO
